US07557112B2
A mixture of ethyl (2E)-(1-benzyl-3-methylpiperidine-4-ylidene)acetate, 1-chloroethyl chloroformate and 1,2-dicholoroethane was stirred for 30 minutes heated to reflux and concentrated under reduced pressure. The residue was dissolved in EtOH and stirred for 10 minutes heated to reflux to give ethyl (2E)-(3-methylpiperidine-4-ylidene)acetate.

reactant | ethyl (2E)-(1-benzyl-3-methylpiperidine-4-ylidene)acetate | C(C1=CC=CC=C1)N1CC(\C(\CC1)=C\C(=O)OCC)C | C17H23NO2
reactant | 1-chloroethyl chloroformate | ClC(=O)OC(C)Cl | C3H4Cl2O2
product | ethyl (2E)-(3-methylpiperidine-4-ylidene)acetate | CC\1CNCC/C1=C\C(=O)OCC | C10H17NO2
